US07754724B2
1-[(6-chloro-1,3-benzodioxol-5-yl)methyl]-4-(2-phenoxyethyl) piperazine (16)
1-[2-(phenoxy)-ethyl]piperazine (200 mg, 0.974 mmol), 6-chloropiperonyl chloride (200 mg, 0.974 mmol), and Et3N (415 μL, 3 mmol) were combined in tetrahydrofuran (THF 20 mL). The reaction mixture was heated at 60° C. for 12 h. The reaction mixture was cooled and extracted with ethyl acetate (EtOAc). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and evaporated. The crude residue was chromatographed on silica (20% EtOAc/Hexanes) and the product fractions were collected and evaporated to an amber solid (186 mg, 51%). 1H NMR (CDCl3) δ: 2.5-2.7 (m, 8H), 2.8 (t, 2H), 3.5 (s, 2H), 4.1 (t, 2H), 5.9 (s, 2H), 6.81 (s, 1H), 6.9-6.94 (m, 3H), 6.96-6.98 (m, 1H), 7.26-7.3 (m, 1H). MS ELS+376. CHN: calc., 64.08, 6.18, 7.47; found, 63.87, 6.12, 7.44. mp: 72-76° C.

reactant | 1-[2-(phenoxy)-ethyl]piperazine | 0.974 mmol, 200 mg | O(C1=CC=CC=C1)CCN1CCNCC1 | C12H18N2O
reactant | 6-chloropiperonyl chloride | 0.974 mmol, 200 mg | C1OC2=C(O1)C=C(C(=C2)CCl)Cl | C8H6Cl2O2
reactant | Et3N | 3 mmol, 415 μL | CCN(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-[(6-chloro-1,3-benzodioxol-5-yl)methyl]-4-(2-phenoxyethyl) piperazine | ClC=1C(=CC2=C(OCO2)C1)CN1CCN(CC1)CCOC1=CC=CC=C1 | C20H23ClN2O3
